US04379783
3-(4'-(Dimethyl-n-hexylsilyl)-2'-methoxyphenyl)cyclohexanone
To a 25° C. solution of 2.00 g. (8.0 mmole) of 3-(dimethyl-n-hexylsilyl)-1-methoxybenzene and 1.32 ml. (8.8 mmole) of N,N,N',N'-tetramethylethylenediamine in 8 ml. diethyl ether was added 3.2 ml. of 2.5 M n-butyllithium in hexane. The reaction solution was heated at reflux for 1 hr and then cooled to -78° C. To the -78° C. solution was added 9.68 mmole of 1-hexynyl copper lithium in 20 ml. tetrahydrofuran. The resultant yellow mixture was stirred 5 minute at -78° C. and then 768 mg. (8.0 mmole) of cyclohex-2-en-1-one was slowly added. The reaction mixture was stirred for 5 minute longer at -78° C. and then warmed to -20° C. and stirred for 5 minute. The reaction mixture was added to 500 ml. saturated aqueous ammonium chloride adjusted to pH 9 with saturated aqueous ammonium hydroxide. The quenched reaction was extracted five times with 500 ml. diethyl ether. The diethyl ether extracts were dried over magnesium sulfate and evaporated to an oil. The crude oil was purified by column chromatography on 200 g. of silica gel eluted with 10% diethyl ether-hexane to yield 1.0 g. (36%) of the title compound as an oil.

reactant | 3-(dimethyl-n-hexylsilyl)-1-methoxybenzene | 8.0 mmole | C[Si](C=1C=C(C=CC1)OC)(CCCCCC)C | C15H26OSi
reactant | N,N,N',N'-tetramethylethylenediamine | 8.8 mmole | CN(CCN(C)C)C | C6H16N2
reactant | n-butyllithium | 2.5 M | C(CCC)[Li]
reactant | 1-hexynyl copper lithium | 9.68 mmole | [Li].C(#CCCCC)[Cu]
reactant | cyclohex-2-en-1-one | 8.0 mmole | C1(C=CCCC1)=O | C6H8O
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | ammonium hydroxide | [OH-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | diethyl ether | C(C)OCC | C4H10O
product | 3-(4'-(Dimethyl-n-hexylsilyl)-2'-methoxyphenyl)cyclohexanone | 36% | C[Si](C1=CC(=C(C=C1)C1CC(CCC1)=O)OC)(CCCCCC)C | C21H34O2Si
